US06525235B2
It has been know that 2,6-DMN and 2,7-DMN form a eutectic crystal at a ratio 2,6-DMN/2,7-DMN of 0.7. Accordingly, in order to increase the recovery rate of 2,6-DMN, in a conventional cooling crystallization step, the feedstock is cooled so that the ratio 2,6-DMN/2,7-DMN in a mother liquor becomes approximately 0.7, and the material containing crystals thus formed is separated and purified (for example, recrystallization such as a high pressure crystallization method or treatment using a solvent). However, it was found by the inventors of the present invention that even when the material containing crystals thus formed was condensed by an effective solid-liquid separation method such as press filtration so that 60 wt % or more of 2,6-DMN was contained in the solid phase component, approximately 10 wt % of 2,7-DMN was also contained therein, and hence, it was difficult to obtain a 2,6-DMN having a purity of 99% or more by performing separation/purification of the solid phase component described above. In addition, through intensive research by the inventors of the present invention on the method for manufacturing a high purity 2,6-DMN having a purity of 99% or more, it was found that a reduction of the content of the 2,7-DMN contained in the solid phase component is important before the separation/purification was performed.

reactant | 2,6-DMN | CC1=CC2=C(C=C1)C=C(C=C2)C | C12H12
reactant | 2,7-DMN | CC1=CC2=C(C=C1)C=CC(=C2)C | C12H12
product | 2,6-DMN 2,7-DMN | CC1=CC2=C(C=C1)C=C(C=C2)C.CC1=CC2=C(C=C1)C=CC(=C2)C | 2C12H12
